** 
.subckt FA1D1 A CO B CI S VDD GND
*.ipin A
*.opin CO
*.ipin B
*.ipin CI
*.opin S
MXP03 n01p A VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXP04 COB B n01p VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXN04 COB B n01n GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXN03 n01n A GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXP00 n00p A VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXP01 n00p B VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXP02 COB CI n00p VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXN02 COB CI n00n GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXN01 n00n B GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXN00 n00n A GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXCOIVP CO COB VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXCOIVN CO COB GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXP05 n02p A VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXP06 n02p B VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXP08 SB COB n02p VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXN08 SB COB n02n GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXN06 n02n B GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXN05 n02n A GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXP07 n02p CI VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXN07 n02n CI GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXP09 n03p A VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXP10 n04p B n03p VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXN10 n04n B n03n GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXN09 n03n A GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXN11 SB CI n04n GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXP11 SB CI n04p VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXSIVN S SB GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXSIVP1 S SB VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
.ends
**.GLOBAL VDD
**.GLOBAL GND
**.end
