** 
.subckt HA1S A B CO S VDD GND
*.ipin A
*.ipin B
*.opin CO
*.opin S
MXXNDPA NDOUT A VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXXNDNB NDOUT A net1 GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXXNDPB NDOUT B VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXXNDNA net1 B GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXXIV3 CO NDOUT VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXXIV4 CO NDOUT GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXXIV1P net2 B net3 VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXXIV1N net2 A GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXXIV1 net3 A VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXXIV2 net2 B GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXXIV5 S net2 net4 VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXXIV6 net4 A VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXXIV7 S net2 GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXXIV8 S A net5 GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXXIV9 net5 B GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXXIV10 net4 B VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
.ends
**.GLOBAL VDD
**.GLOBAL GND
**.end
