** 
.subckt HA1S A B CO S VDD GND
*.ipin A
*.ipin B
*.opin CO
*.opin S
XXNDPA NDOUT A VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XXNDNB NDOUT A net1 GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XXNDPB NDOUT B VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XXNDNA net1 B GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XXIV3 CO NDOUT VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XXIV4 CO NDOUT GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XXIV1P net2 B net3 VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XXIV1N net2 A GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XXIV1 net3 A VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XXIV2 net2 B GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XXIV5 S net2 net4 VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XXIV6 net4 A VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XXIV7 S net2 GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XXIV8 S A net5 GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XXIV9 net5 B GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XXIV10 net4 B VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
.ends
**.GLOBAL VDD
**.GLOBAL GND
**.end
