**
.subckt DFFQU1 CK D Q VDD GND
*.ipin CK
*.ipin D
*.opin Q
XCKIV1P CKB CK VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XCKIV2P CKP CKB VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XCKIV1P1 net1 D VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XCKIV1P2 ml_ax CKP net1 VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XIV1P ml_b ml_ax VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XCKIV2P1 net3 ml_b VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XCKIV2P2 ml_ax CKB net3 VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XTFGP ml_b CKB sl_ax VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XCKIV3P1 net5 sl_b VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XCKIV3P2 sl_ax CKP net5 VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XOUTIVP Q sl_b VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XCKIV1N CKB CK GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XCKIV2N CKP CKB GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XCKIV1N2 ml_ax CKB net2 GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XCKIV1N1 net2 D GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XIV1N ml_b ml_ax GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XTFGN ml_b CKP sl_ax GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XOUTIVN Q sl_b GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XCKIV3N2 sl_ax CKB net6 GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XCKIV3N1 net6 sl_b GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XCKIV2N2 ml_ax CKP net4 GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XCKIV2N1 net4 ml_b GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XIV2P sl_b sl_ax VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XIV2N sl_b sl_ax GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
.ends
**.GLOBAL VDD
**.GLOBAL GND
**.end
** 
.subckt FA1D1 A CO B CI S VDD GND
*.ipin A
*.opin CO
*.ipin B
*.ipin CI
*.opin S
XP03 n01p A VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XP04 COB B n01p VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XN04 COB B n01n GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XN03 n01n A GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XP00 n00p A VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XP01 n00p B VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XP02 COB CI n00p VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XN02 COB CI n00n GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XN01 n00n B GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XN00 n00n A GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XCOIVP CO COB VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XCOIVN CO COB GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XP05 n02p A VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XP06 n02p B VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XP08 SB COB n02p VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XN08 SB COB n02n GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XN06 n02n B GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XN05 n02n A GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XP07 n02p CI VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XN07 n02n CI GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XP09 n03p A VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XP10 n04p B n03p VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XN10 n04n B n03n GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XN09 n03n A GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XN11 SB CI n04n GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XP11 SB CI n04p VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XSIVN S SB GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XSIVP1 S SB VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
.ends
**.GLOBAL VDD
**.GLOBAL GND
**.end
** 
.subckt HA1S A B CO S VDD GND
*.ipin A
*.ipin B
*.opin CO
*.opin S
XXNDPA NDOUT A VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XXNDNB NDOUT A net1 GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XXNDPB NDOUT B VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XXNDNA net1 B GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XXIV3 CO NDOUT VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XXIV4 CO NDOUT GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XXIV1P net2 B net3 VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XXIV1N net2 A GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XXIV1 net3 A VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XXIV2 net2 B GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XXIV5 S net2 net4 VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XXIV6 net4 A VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
XXIV7 S net2 GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XXIV8 S A net5 GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XXIV9 net5 B GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
XXIV10 net4 B VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
.ends
**.GLOBAL VDD
**.GLOBAL GND
**.end
